US08022076B2
A stirred solution of {5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetic acid ethyl ester (0.10 g, 0.248 mmol) in anhydrous tetrahydrofuran (1 ml) was cooled in an ice-bath and treated, under a nitrogen atmosphere, with diisobutylaluminium hydride (1M solution in hexane, 1.04 ml, 1.04 mmol) over about 15 minutes. The reaction mixture was allowed to warm up and left to stir at ambient temperature for 3 hours. The resultant mixture was then cooled in an ice-bath and quenched by the slow addition of methanol (0.5 ml) followed by water (1 ml). The mixture was then diluted with 2M sodium hydroxide solution (10 ml) and extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude product. Purification by flash chromatography (silica) eluting with ethyl acetate and 40°-60° petroleum ether (4:1) gave 2-{5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}ethanol as an off-white solid (0.05 g), m.p. 90°-92° C.

reactant | {5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetic acid ethyl ester | 0.248 mmol, 0.10 g | C(C)OC(CC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C22H20N4O2S
reactant | diisobutylaluminium hydride | 1.04 mmol, 1M, 1.04 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-{5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}ethanol | 0.05 g | C1(=CC=CC=C1)C1=CSC=2N=C(N=C(C21)NCC2=NC=CC=C2)CCO | C20H18N4OS
